US06133445
1-(3,3-Diethoxypropyl)-2-methyl-benzothiazole was prepared by reaction of 2-methylbenzothiazole (125 mg, 0.84 mmol) with acrolein diethyl acetal (1.64 g, 12.6 mmol) and acetic acid (100 μl) in acetonitrile (4 ml) by a method analogous to that described in Section 1.2. The product was purified by HPLC on a Rainin Dynamax C18, 8 μm using a 0-100% gradient elution of water/acetonitrile (containing 0.1% TFA) over 60 minutes at 20 ml/min. The product was obtained as a colourless oil (220 mg, 95%); m/z (FAB+): 280.

reactant | 2-methylbenzothiazole | 0.84 mmol, 125 mg | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | acrolein diethyl acetal | 12.6 mmol, 1.64 g | C(C)OC(C=C)OCC | C7H14O2
reactant | acetic acid | 100 μl | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 1-(3,3-Diethoxypropyl)-2-methyl-benzothiazole | C(C)OC(CCS1C(=NC2=C1C=CC=C2)C)OCC | C15H23NO2S
